US06153744
242 mg thymidine (1 mmol, co-evaporated 3× each with 5 ml abs. pyridine) are dissolved in 2.5 ml abs. pyridine and cooled to -60° C. 396 mg 2-(2-nitrophenyl)propylsulfonyl chloride (1.5 mmol) in 2.5 ml abs. CH2Cl2 are added drop-wise to this within 10 Min. After stirring 4 h at a temperature between -60 and -30° C., the temperature is allowed to increase to -15° C. After a total of 61/4 h, the reaction is mixed with 15 ml H2O and CH2Cl2 respectively and the aqueous phase is extracted 4× each with 15 ml CH2Cl2. The combined organic phases are dried over Na2SO4, filtered and rotary evaporated. This is co-evaporated 3× with toluene and 1× with methanol. The crude product (600 mg) is purified over flash chromatography (39 g silica gel, 3×11 cm, Sol.: CH2Cl2 /MeOH, cond.: CH2Cl2, gradient: 100 ml CH2Cl2, each 150 ml 100:1, 100:2, 100:3 and 100:4). 290 mg (0.62 mmol, 62%) 5'-O-[2-(2-nitrophenyl)propyl-sulfonyl]-thymidine are obtained as a colorless foam. The obtained mixed fractions are purified by a further column (4.5 g silica gel, 1×11 cm, Sol.: CH2Cl2 /MeOH, cond.: CH2Cl2, gradient: 100 ml CH2Cl2, each 50 ml 100:0.5, 100:1 and 100:2). 128 mg (0.18 mmol, 18%) 3',5'-Di-O-[2-(2-nitrophenyl)-propylsulfonyl]-thymidine are isolated as a colorless foam and 26 mg (0.06 mmol, 6%) 3 '-O-[2 -(2-nitrophenyl)-propylsulfonyl]-thymidine as a light red foam.

reactant | thymidine | 242 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-nitrophenyl)propylsulfonyl chloride | 1.5 mmol, 396 mg | [N+](=O)([O-])C1=C(C=CC=C1)C(CS(=O)(=O)Cl)C | C9H10ClNO4S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | 15 ml | O | H2O
product | 5'-O-[2-(2-nitrophenyl)propyl-sulfonyl]-thymidine | 0.62 mmol, 290 mg, 62% | [N+](=O)([O-])C1=C(C=CC=C1)C(CS(=O)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)C | C19H23N3O9S
